US06362201B1
1-(N-(3-Acetylaminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine
A solution of 0.02 g (0.04 mmol) of 1-(N-(3-aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine, 0.025 mL (0.18 mmol) of triethylamine and 0.015 mL (0.16 mmol) of acetic anydride in 2 mL of CH2Cl2 was stirred for 12 h at rt. The reaction mixture was partitioned between EtOAc and water. The organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, acetone:hexanes, 1:1) to give 17 mg of the title compound. Mass Spectrum (EI) m/e 545 (M+1).

reactant | 1-(N-(3-aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 0.04 mmol, 0.02 g | NCCCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C31H39FN4O
reactant | triethylamine | 0.18 mmol, 0.025 mL | C(C)N(CC)CC | C6H15N
reactant | acetic | 0.16 mmol, 0.015 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(N-(3-Acetylaminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 17 mg | C(C)(=O)NCCCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C33H41FN4O2
